US07166598B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[4-[(2S)-2-(methoxymethyl)-morpholino]-2-butynyl]piperazine (0.33 g) in methanol (10 ml) was hydrogenated over Lindlar catalyst (63 mg). After removal of catalyst by filtration, the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methanol/dichloromethane (1:9) as an eluent. The fractions containing the objective compound were collected and evaporated in vacuo to give (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[(Z)-4-[(2S)-2-(methoxymethyl)morpholino]-2-butenyl]piperazine (0.22 g) as an oil.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[4-[(2S)-2-(methoxymethyl)-morpholino]-2-butynyl]piperazine | 0.33 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)O)C=C(C1)C(F)(F)F)(F)F | C31H35F6N3O4
solvent | methanol | 10 ml | CO | CH4O
catalyst | Lindlar catalyst | 63 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[(Z)-4-[(2S)-2-(methoxymethyl)morpholino]-2-butenyl]piperazine | 0.22 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C/CN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)O)C=C(C1)C(F)(F)F)(F)F | C31H37F6N3O4
